US07517910B2
3-[4-({4-[(5-isopropyl-3-phenyl-1H-pyrazol-1-yl)methyl]benzyl}oxy)phenyl]propanoic acid
A mixture of 3-isopropyl-5-phenyl-1H-pyrazole (186 mg, 1.0 mmol), sodium hydride (60% in oil, 40 mg, 1.0 mmol) and N,N-dimethylformamide (5 mL) was stirred at room temperature for 1 hr. Methyl 3-(4-{[4-(chloromethyl)benzyl]oxy)phenyl)propanoate (318 mg, 1.00 mmol) was added to the reaction mixture at room temperature, and the mixture was further stirred for 1 hr. The reaction mixture was poured into 1 N hydrochloric acid, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was dried using a Presep Dehydration tube (Manufactured by Wako Pure Chemical Industries, Ltd.), and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=19:1-1:1) to give a yellow oil. The yellow oil was dissolved in a mixed solvent of methanol (3 mL) and tetrahydrofuran (3 mL), and 1 N aqueous sodium hydroxide solution (2 mL) was added. The mixture was stirred at room temperature for 1 hr. The reaction mixture was diluted with water, neutralized with 1 N hydrochloric acid, and extracted with ethyl acetate. The ethyl acetate layer was dried using a Presep Dehydration tube (Manufactured by Wako Pure Chemical Industries, Ltd.), and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=9:1-1:4) to give the title compound (254 mg, yield 56%, 2 steps) as a colorless oil.

reactant | 3-isopropyl-5-phenyl-1H-pyrazole | 1.0 mmol, 186 mg | C(C)(C)C1=NNC(=C1)C1=CC=CC=C1 | C12H14N2
reactant | sodium hydride | 1.0 mmol, 40 mg | [H-].[Na+]
reactant | Methyl 3-(4-{[4-(chloromethyl)benzyl]oxy)phenyl)propanoate | 1.00 mmol, 318 mg | ClCC1=CC=C(COC2=CC=C(C=C2)CCC(=O)OC)C=C1 | C18H19ClO3
reactant | hydrochloric acid | 1 N | Cl | ClH
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | methanol | 3 mL | CO | CH4O
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
solvent | sodium hydroxide | 1 N, 2 mL | [OH-].[Na+]
solvent | water | O | H2O
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | 3-[4-({4-[(5-isopropyl-3-phenyl-1H-pyrazol-1-yl)methyl]benzyl}oxy)phenyl]propanoic acid | 254 mg, yield 56% | C(C)(C)C1=CC(=NN1CC1=CC=C(COC2=CC=C(C=C2)CCC(=O)O)C=C1)C1=CC=CC=C1 | C29H30N2O3
